US08012986B2
2-Chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 6-methyl-4-(6-trifluoromethyl-pyridin-3-yl)-1H-pyrimidin-2-one (2.0 g, 7.84 mmol) and phosphoroxychloride (12 ml) according to the general procedure I. Obtained as an orange solid (1.33 g, 62%). MS (ISP) 274.1 [(M+H)+]; mp 123.5° C.

reactant | 6-methyl-4-(6-trifluoromethyl-pyridin-3-yl)-1H-pyrimidin-2-one | 7.84 mmol, 2.0 g | CC1=CC(=NC(N1)=O)C=1C=NC(=CC1)C(F)(F)F | C11H8F3N3O
reactant | phosphoroxychloride | 12 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | ClC1=NC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C11H7ClF3N3
